US06235771B1
To methyl 7-[4-(2-propoxyethoxy)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (6.5 g) were added 1,2-dimethoxyethane (130 ml) and 6N hydrochloric acid (65 ml), and the mixture was refluxed at 100° C. for 18 hours, cooled to room temperature, extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 7-[4-(2-propoxyethoxy)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (5.0 g).

reactant | methyl 7-[4-(2-propoxyethoxy)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 6.5 g | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C23H26O6S
reactant | hydrochloric acid | 6N, 65 ml | Cl | ClH
solvent | 1,2-dimethoxyethane | 130 ml | COCCOC | C4H10O2
product | 7-[4-(2-propoxyethoxy)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 5.0 g | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C22H24O6S
